US07125896B2
c) 4-Bromo-3-(2-{piperidin-1-yl}ethoxy)phenol
4-Bromo-3-(2-{piperidin-1-yl}ethoxy)phenyl 4-methylbenzenesulfonate (24.2 g), potassium hydroxide (16.1 g), water (96 ml) and ethanol (860 ml) were heated on the steam bath for 2 h. The pH was adjusted to 4 with concentrated hydrochloric acid, then to pH 7 with solid sodium bicarbonate. After evaporation to near dryness, water (200 ml) was added and the mixture was extracted with ethyl acetate (3×150 ml). The organic phase was washed with water, brine, dried (MgSO4) and evaporated to give an oil (16.4 g).

reactant | 4-Bromo-3-(2-{piperidin-1-yl}ethoxy)phenyl 4-methylbenzenesulfonate | 24.2 g | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC(=C(C=C1)Br)OCCN1CCCCC1 | C20H24BrNO4S
reactant | potassium hydroxide | 16.1 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 860 ml | C(C)O | C2H6O
solvent | water | 96 ml | O | H2O
product | 4-Bromo-3-(2-{piperidin-1-yl}ethoxy)phenol | 16.4 g | BrC1=C(C=C(C=C1)O)OCCN1CCCCC1 | C13H18BrNO2
